### PR TITLE
Imported Free Validator from Casper-CBC

### PR DESCRIPTION
**Pull request by traiansf**
... Also, rewrote the validation result for MO to use the generic validation result, as stated in the paper.

### CODE REVIEW

File: theories/Examples/ELMO/MO.v [hunk 1]
```diff
@@ -843,357 +862,125 @@ Context
...
-Proof. by intros; apply lift_to_free_weak_embedding. Qed.
-
-Lemma lift_to_MO_valid_state_prop :
-  forall (i : index) (s : State) (us : MO_state),
-    valid_state_prop MO us -> valid_state_prop (M i) s ->
-      valid_state_prop MO (lift_to_MO_state us i s).
-Proof.
-  intros is s us Hvsp.
-  by eapply VLSM_weak_embedding_valid_state, lift_to_MO.
-Qed.
```
Comment (wkolowski) [inline theories/Examples/ELMO/MO.v:892]: Why are you throwing so much away?

File: theories/Examples/ELMO/MO.v [hunk 2]
```diff
@@ -843,357 +862,125 @@ Context
...
-    inversion Hvalid; subst; clear Hvalid;
-    inversion Ht; subst; cbn in *; clear Ht; cycle 1.
-  - repeat split.
-    + by eapply finite_valid_trace_from_to_last_pstate, IHHfvt.
-    + by apply option_valid_message_None.
-    + by constructor.
-    + by cbn; state_update_simpl.
-  - repeat split.
-    + by eapply finite_valid_trace_from_to_last_pstate, IHHfvt.
-    + by apply option_valid_message_prop_MO_msg_valid.
```
Comment (wkolowski) [inline theories/Examples/ELMO/MO.v:1097]: Again, why so much has to go?

File: theories/Examples/ELMO/MO.v [hunk 3]
```diff
@@ -843,357 +862,125 @@ Context
...
+  unfold channel_authenticated_message, Message_sender.
+  erewrite MO_reachable_adr by done.
+  case_decide as Hadr.
+  - by cbn; f_equal; apply Message_sender_index_inv.
+  - by rewrite (adr2idx_idx idx) in Hadr; contradict Hadr; eexists.
+Qed.
+
+
+Lemma cannot_resend_message_stepwise_ELMO_component i :
+  cannot_resend_message_stepwise_prop (M i).
```
Comment (wkolowski) [inline theories/Examples/ELMO/MO.v:901]: The name looks a bit off, talking about ELMO component, even though we're doing MO.

File: theories/Examples/ELMO/MO.v [hunk 4]
```diff
@@ -843,357 +862,125 @@ Context
...
+Proof.
+  intros ? * [(Hs & _ & Hv) Ht];
+    inversion Hv; subst; inversion Ht; subst;
+    simpl; split; intro Hobs.
+  - by apply elem_of_sentMessages, obs_sizeState in Hobs; cbn in Hobs; lia.
+  - rewrite receivedMessages_addObservation, decide_False in Hobs by (intro; done).
+    by apply elem_of_receivedMessages, obs_sizeState in Hobs; cbn in Hobs; lia.
+Qed.
+
+#[export] Instance MessageDependencies_ELMO_component i :
```
Comment (wkolowski) [inline theories/Examples/ELMO/MO.v:911]: Again, the name talks about ELMO component. Is this because of copy-pasting?

File: theories/Examples/ELMO/MO.v [hunk 5]
```diff
@@ -843,357 +862,125 @@ Context
...
-  unfold lift_to_MO_trace in Heqftl; cbn in Heqftl.
-  rewrite <- pre_VLSM_embedding_finite_trace_last, Hlast in Heqftl.
-  exists ftl; split; [by rewrite Heqftl; state_update_simpl |].
-  split_and!; [| | done..].
-  - eapply VLSM_incl_valid_state; [| by apply Hvps].
-    by apply free_composite_vlsm_spec.
-  - destruct Hovmp as [ss Hvsmp].
-    exists ss.
-    apply VLSM_incl_valid_state_message; [| by do 2 red | done].
-    by apply free_composite_vlsm_spec.
```
Comment (wkolowski) [inline theories/Examples/ELMO/MO.v:1196]: Again, why is so much gone?

Did you check whether any of the deleted lemmas or definitions were mentioned in the paper or the paper maps?

**Review by wkolowski — APPROVED** [review]
Looks ok, but please address my suggestions. I also opened a PR with minor suggestions: #376

File: theories/Examples/ELMO/MO.v (hunk 1 above)
Comment (traiansf) [reply theories/Examples/ELMO/MO.v:892]: Because their purpose was to prove the validation result. In some sense, this shows that it's worthwhile to prove results in an abstract manner and then instantiate them.

File: theories/Examples/ELMO/MO.v (hunk 3 above)
Comment (traiansf) [reply theories/Examples/ELMO/MO.v:901]: oups! I just copied it over from ELMO and forgot to rename stuff.
I guess one could extract a more general result to be instantiated for both MO and ELMO, but...

File: theories/Examples/ELMO/MO.v (hunk 4 above)
Comment (traiansf) [reply theories/Examples/ELMO/MO.v:911]: yes

File: theories/Examples/ELMO/MO.v (hunk 5 above)
Comment (traiansf) [reply theories/Examples/ELMO/MO.v:1196]: Well, I think that they are no longer mentioned, since the paper now talks about MO validation result as an instance of the abstract result.

File: theories/Core/Validators/FreeCompositionValidator.v [hunk 6]
```diff
@@ -3,7 +3,21 @@ From stdpp Require Import prelude.
...
+Nemely, we show that if an indexed collection of vlsm <<IM>> satisfies
+the [channel_authentication_prop]erty, the [MessageDependencies] and
+[FullMessageDependencies] assumptions, the [HasBeenSentCapability] and
+[HasBeenReceivedCapability], then any component which for every valid input
+guarantees that the message and all its dependencies are [emittable] by one
+of the components is a validator for the free composition of <<IM>>
+(lemma [free_valid_message_yields_projection_validator]).
+
+Specialized (simpler) conditions are provided and proved for components which
+additionally satisfy the [message_dependencies_full_node_condition_prop]erty.
```
Comment (wkolowski) [inline theories/Core/Validators/FreeCompositionValidator.v:19]:
```suggestion
  In this module we give sufficient (abstract) conditions for a component to be
  validator for the free composition it is part of.
  
  Nemely, we show that if an indexed collection of vlsm <<IM>> satisfies
  the [channel_authentication_prop]erty, the [MessageDependencies] and
  [FullMessageDependencies] assumptions, the [HasBeenSentCapability] and
  [HasBeenReceivedCapability], then any component which for every valid input
  guarantees that the message and all its dependencies are [emittable] by one
  of the components is a validator for the free composition of <<IM>>
  (lemma [free_valid_message_yields_projection_validator]).
  
  Specialized (simpler) conditions are provided and proved for components which
  additionally satisfy the [message_dependencies_full_node_condition_prop]erty.
```
